US06437150B1
Tetradecanoic Acid 1-(2-Hex-3-enyloxycarbonyl-ethyl)-heptyl Ester
To a mixture of 1.10 g of 4-hydroxy-decanoic acid hex-3-enyl ester, 0.64 g pyridine and 0.1 g dimethylaminopyridine in 5 ml tetrahydrofuran was slowly added a solution of 1.10 g myristoyl chloride in 5 ml tetrahydrofuran. The mixture was stirred for 16 hours at room temperature. Water was then added and the mixture extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, 2N hydrochloric acid, water, dried over magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel to give 1.81 g of a colorless liquid.

reactant | 4-hydroxy-decanoic acid hex-3-enyl ester | 1.10 g | C(CC=CCC)OC(CCC(CCCCCC)O)=O | C16H30O3
reactant | pyridine | 0.64 g | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 0.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | myristoyl chloride | 1.10 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | Tetradecanoic Acid 1-(2-Hex-3-enyloxycarbonyl-ethyl)-heptyl Ester | 1.81 g | C(CC=CCC)OC(=O)CCC(CCCCCC)OC(CCCCCCCCCCCCC)=O | C30H56O4
